US09422271B2
To a solution of 4-bromo-5-iodo-2-phenylpyrimidine (1.18 g, 3.29 mmol, 1.0 equiv.) in n-BuOH (20 mL) was added 3-cyclopropyl-1H-pyrazol-5-amine (0.811 g, 6.58 mmol, 2 equ). After heating at 90° C. for 24 hours, the reaction was filtered to afford N-(5-cyclopropyl-1H-pyrazol-3-yl)-5-iodo-2-phenylpyrimidin-4-amine (0.85 g, 88.7%). LC-MS (m/z): 404.1 [M+H]+. 1H NMR (300 MHz, DMSO-d6): δ 0.74-0.77 (m, 2H), 0.98-1.02 (m, 2H), 1.96-2.01 (m, 1H), 6.40 (s, 2H), 7.50-7.54 (m, 3H), 8.27-8.30 (m, 2H), 8.63 (s, 1H), 8.88 (s, 2H), 12.32 (s, 1H).

reactant | 4-bromo-5-iodo-2-phenylpyrimidine | 3.29 mmol, 1.18 g, 1.0 equiv. | BrC1=NC(=NC=C1I)C1=CC=CC=C1 | C10H6BrIN2
reactant | 3-cyclopropyl-1H-pyrazol-5-amine | 6.58 mmol, 0.811 g | C1(CC1)C1=NNC(=C1)N | C6H9N3
solvent | n-BuOH | 20 mL | CCCCO | C4H10O
product | N-(5-cyclopropyl-1H-pyrazol-3-yl)-5-iodo-2-phenylpyrimidin-4-amine | 0.85 g, 88.7% | C1(CC1)C1=CC(=NN1)NC1=NC(=NC=C1I)C1=CC=CC=C1 | C16H14IN5
